Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm very good at hiding what I'm feeling. Suidical." 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per Dr. ___ ___ ED Psychiatry Initial Consultation 
note:

___ year old single, male, ___ at ___, with 
past psychiatric hx of MDD on Cymbalta and Wellbutrin presenting 
to ED with SI with plan. Psychiatry consulted for safety 
evaluation.

Patient states that over the past month he has been having 
worsening depressive symptoms in the setting of educational and 
financial stressors leading to his researching plans to complete 
suicide for the first time. The first time was one month ago. 
The second time was 2 weeks ago and this past ___, he 
decided to end his life "sometime this week," with plan to 
consume etoh, sleeping pills or by jumping off a bridge. States, 
"I see death as the only way out right now."

Pt states that the only thing keeping him from ending his life 
is his not having the energy or motivation to do so. States that 
his plan for this week had been to look for opportunities to end 
his life as he was walking around the city; specifically bridges 
to jump off of. States that the inclination to end his life 
"comes in waves," and notes that he can't predict when it 
happens. 

States that earlier this week, he contacted a friend and told 
them of his SI, and that friend contacted another friend who 
told him about inpatient psychiatry placement and how it helped 
them. At the same time his psychiatrist had referred him to the 
Optimum ___ health who had also been trying to contact him 
through phone and email due to high phq9 depression scale 
scores. Pt finally contacted ___, told them about SI 
and they sent him to the ED.

Regarding depression, pt endorses decreased energy/motivation to 
accomplish tasks. Is currently ___ in ___ 
and failing ___ classes. Also working as an ___ and does not feel 
motivated to work. Endorses anhedonia, merely gets joy from 
sleep and video games. Used to find joy in learning to play the 
banjo, now just stares at it as it sits in a corner of his room. 
Endorses hypersomnia, sleeping ___ and napping for ___ 
hours at least once and sometimes twice per day. Denies change 
in appetite, has been stably 240lbs since ___, but gained 60lbs 
over the course of ___ years while living in ___ noting 
worsened mood at that time as well. Also endorses psychomotor 
retardation. 

Regarding anxiety, he has experienced it since puberty, 
specifically due to hyperhydrosis, and his constant worry about 
people noticing how much he sweats. Also reports remote hx of 
episodic fear and sweating which he describes as panic attacks. 

The patient denies symptoms of mania such as distractibility, 
erratic behavior, grandiosity, flight of ideas, increased 
activity, decreased need for sleep, or talkativeness/pressured 
speech. 

The patient also denies psychotic symptoms such as auditory or 
visual hallucinations, paranoia, or delusions. 

Notes that the ideal outcome from this presentation is to learn 
about treatment options. When asked how he feels about inpatient 
placement, pt states agreeableness but endorses increased 
anxiety about it. 

Notes that he can not say if he would not be suicidal upon 
discharge into the community. "

In the ED, patient was continued on home Cymbalta 60mg PO daily 
and Wellbutrin 450mg XR PO daily. He was calm and cooperative in 
the ED and did not require physical or chemical restraints. 

On admission to the inpatient psychiatric unit, patient 
corroborated the above information. He reports decreased energy, 
motivation, concentration and increased loneliness. He also 
endorses feeling "super anxious." He has been failing most of 
his classes and falling behind on his RA duties, increasing his 
stress and anxiety. He takes his medications daily and thinks 
they were "helpful in the beginning, but not anymore." He denies 
current suicidal ideation and endorses feeling safe. He agrees 
to tell nursing or other staff if he had increasing suicidal 
thoughts or feels unsafe. 

 
Past Medical History:
Has experienced depressive episodes since HS, but did not start 
medical treatment until ___ when he was prescribed Wellbutrin 
which was augmented by first Zoloft and then abilify. He was on 
this med regimen for ___ years until he moved to ___ where he 
lived for ___ years. In ___ pt noted seasonal component to mood 
which contributed to worsened mood and subsequent 
self-administration of vitamin D. Moved to ___ in ___ when 
he was connected to his current psychiatrist at ___ health 
for ___, who adjusted his medication regimen by 
stopping abilify and Zoloft, increasing Wellbutrin and adding 
Cymbalta. 

Hospitalizations: denies

Current treaters and treatment: ___, MD ___ @ 
___ Health

Medication and ECT trials: Zoloft, abilify, wellbutrin 

Self-injury: Denies

Harm to others: denies

Access to weapons: denies
 

PAST MEDICAL HISTORY:
Eczema
hyperhydrosis
Wisdom teeth (all) removal 
PCP: ___ Health 
 
Social History:
SUBSTANCE USE HISTORY:
-Caffeine:2 cups of coffee and ___ energy drinks
-Tobacco: Denies
-Alcohol: ___ drinks/week /Denies history of blackouts, alcohol 
withdrawal, DTs, seizures.
-Marijuana: occasional, last use 3 months ago
-Heroin: Denies
-Opiates: Denies
-Benzos: Denies
-Cocaine: Denies
-Amphetamines/speed: Tried adderall once, no current or ongoing 
use.
-LSD/PCP: ___: Denies
-Other Drugs: Denies

FORENSIC HISTORY:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Father - ___ until pt was ___ year old, then relapsed ___ years 
later such that he needed hospitalization.  
Mother - anxiety
Brother-anxiety

 
Physical Exam:
Physical Exam on Admission:

VITAL SIGNS:
T 98.2, HR 102, BP 126/83, RR 20, SpO2 100% on RA

EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes, 
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops. 
-Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No 
tenderness to palpation in all quadrants. 
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: eczema on feet, no other rashes or bruises

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movement, 
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
- Coordination: Normal on finger to nose test
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  
.
Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 min (turnip, tan,
bed)
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "don't judge a book by its cover "You
don't know what's going on on the inside"
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: man appearing stated age, overgrown beard, wearing 
hospital gown, in no apparent distress, anxious appearing
-Behavior: Sitting in chair, appropriate eye contact, fidgeting 
with pant drawstrings
-Attitude: Cooperative, engaged, friendly
-Mood: "neutral, in limbo"
-Affect: Mood-congruent, restricted range of affect, appropriate 
to situation
-Speech: Normal rate, volume, and tone;
-Thought process: Linear, coherent, goal-oriented, no loose 
associations
-Thought Content:
---Safety: Denies current SI, intent, or plan, denies HI
---Delusions: No evidence of paranoid delusions, grandiose
delusions, persecutory delusions, delusions of reference, or 
delusions of thought insertion, withdrawal, or broadcasting
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
-Insight: Limited
-Judgment: fair
PHYSICAL EXAM ON DISCHARGE:
Vitals: T:97.1 BP:123/82 HR:107 RR:16 SpO2:96% on RA

Mental Status Exam: 
-Appearance: Age appearing young male with beard, appropriate
grooming and hygiene. Wearing causal clothing. No acute 
distress.
-Behavior: Sitting compfortably, appropriate eye contact.
Cooperative, friendly, and engaged in interview. No significant
psychomotor agitation or retardation noted.
-Mood: "I'm doing good"
-Affect: Mood-congruent, full range, appropriate to situation. 
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content: Denies SI, thought so fself harm or violent
ideation. No perceptual disturbances. Denies auditory or visual
hallucinations and does not appear internally preoccupied.
-Insight: Good
-Judgment: Fair

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: Not formally assessed but attentive to interview
-Orientation:
-Memory: Not formally assessed but intact to interview
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

 
Pertinent Results:
___ WBC-6.4 RBC-5.09 Hgb-15.9 Hct-44.1 MCV-87 MCH-31.2 
MCHC-36.1 RDW-12.4 RDWSD-38.9 Plt ___
___ Neuts-65.5 ___ Monos-8.0 Eos-1.7 Baso-0.5 Im 
___ AbsNeut-4.18 AbsLymp-1.53 AbsMono-0.51 AbsEos-0.11 
AbsBaso-0.03
___ Glucose-109* UreaN-8 Creat-1.0 Na-143 K-4.4 Cl-103 
HCO3-31 AnGap-9*
.
___:  %HbA1c-4.9 eAG-94
___: Triglyc-93 HDL-43 CHOL/HD-2.8 LDLcalc-58
.
___: TSH-0.60
.
___ 11:26AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 01:15PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, Mr. ___ signed a conditional voluntary agreement 
(Section 10 & 11) and that legal status remained in place 
throughout admission. Mr. ___ was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
2. PSYCHIATRIC:
#)Mr. ___ is a  ___ year old man with a history of 
depression but no previous hospitalization or suicide attempts, 
who was BIB EMS pursuant ___ from ___ 
office due to worsening suicidal ideation; also endorses 
multiple neurovegetative symptoms in the context of psychosocial 
stressors (including worsening grades and financial 
difficulties). At admission, patient reported worsening 
depressive symptoms in the setting of educational and
financial stressors leading to his researching plans to complete 
suicide, and evolving plan to overdose on alcohol and sleeping 
pills or to jump from a bridge. During his admission, patient 
was noted to be engaged and cooperative; he frequently attending 
psychotherapeutic groups and asked insightful questions about 
therapeutic treatment modalities (e.g. CBT vs DBT vs ACT). His 
Cymbalta was discontinued due to perceived inefficacy, and he 
was initiated on 25 mg lamotrigine with plan to uptitate as 
outpatient. With progression of admission, patient reported 
signifcant improvement in acute suicidality and reports 
improvement in mood and emotional stability. His presentation 
appeared consistent with major depressive episode with what 
appears to be longstanding unspecified anxiety (GAD vs social 
anxiety) for which previous medication trials have offered some 
relief. At ___, patient identified that he learned coping 
skills which he intends on utilizing post-discharge, and he 
described his experience in the milieu as stabilizing and 
supportive. He endorsed improvement in his mood and stated his 
intent to continue therapeutic work as an outpatient. He denied 
suicidal ideation prior to and at time of discharge. He also 
verbalized his understanding of the importance of continuing to 
reach out to others if his mood should worsen. 
.
3. SUBSTANCE USE DISORDERS:
Mr. ___ does not have any substance use disorders, and 
therefore did not require any counseling or treatment in this 
regard.
.
4. MEDICAL
Mr. ___ was medically cleared in the ED; no acute medical 
issues prevented admission to ___ 4.  
.
Hyperhydrosis:
Patient with a history of hyperhydrosis, was restarted on 
glycopyrrolate. Was restarted on 1 mg BID, with good effect.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Mr. ___  was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. Mr. ___ often 
attended these groups. Mr. ___ was visible on the milieu and 
appropriately interacted frequently with staff and peers.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Mr. ___ gave verbal and written permission for the team to 
contact her/his outpatient psychiatrist ___. They were 
provided with a summary of Mr. ___ presentation to the ___ 
ED/Deac 4 and an update of her progress since admission on Deac 
4, and she provided collateral information and treatment 
recommendations.  Mr. ___ did not have an outpatient therapist 
while admitted, but was referred to one upon discharge.
.
Mr. ___ gave verbal and written permission for the team to 
contact his Mother, who was also given an update on Mr. ___ 
progress while admitted and discharge plan. 
.
6. INFORMED CONSENT: 
Medication: Lamotrigine (Lamictal)
---Intended effects/Benefits: mood stabilization
---Adverse effects/Risks: Benign rash (10%), serious rash = 
___ syndrome (rare), sedation (unusual), 
blurred/double vision, dizziness, ataxia, headache, tremor, 
insomnia, poor coordination, fatigue, nausea, vomiting, 
dyspepsia, abdominal pain, constipation, weight gain (unusual), 
rhinitis, toxic epidermal necrolysis (rare), blood dyscrasias 
(rare), aseptic meningitis (rare), withdrawal seizures upon 
abrupt withdrawal
.
Mr. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. He appeared to appreciate the information conveyed in 
the consent process by asking appropriate questions, which were 
answered by the treatment team, and expressing understanding of 
the potential risks and benefits (see above). Prior to starting 
treatment, the team also discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment. Mr. ___ 
understood the above and consented to begin the medication.
.
7. RISK ASSESSMENT
On presentation, Mr. ___ was evaluated and felt to be at an 
increased risk of harm to himself. Mr. ___ static risk 
factors noted at that time included  chronic mental illness, hx 
of medication non-compliance, age, gender, race, and hx of 
suicidal ideation. The modifiable risk factors identified on 
admission included hopelessness, suicidal ideation with plan, 
acutely stressful events, limited outpatient resources and 
limited coping skills. These modifiable risk factors were 
addressed with acute stabilization in a safe environment on a 
locked inpatient unit, psychopharmacologic adjustments, 
psychotherapeutic interventions (OT groups, SW groups, 
individual therapy meetings with psychiatrists), and presence on 
a social milieu environment, as well as coordination of care 
with outpatient providers. Mr. ___ is being discharged with 
many protective factors, including being help-seeking, no 
chronic substance use, engagement with outpatient treaters,no 
access to lethal weapons, positive social support in friends and 
mother and reality testing ability, and improved coping skills. 
Patient demonstrated preserved capacity to engage in a 
meaningful conversation about safety planning and what he would 
do in the event of worsening mood or suicidal ideation occurred 
in the future (e.g. patient would contact his prescriber, his 
mother, new therapist, call ___, or come to the emergency room). 
Overall, based on the totality of our assessment at this time, 
Mr. ___ is not at an acutely elevated risk of harm to self nor 
danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. DULoxetine 60 mg PO DAILY 
2. BuPROPion XL (Once Daily) 450 mg PO DAILY 

 
Discharge Medications:
1.  Glycopyrrolate 1 mg PO BID 
RX *glycopyrrolate 1 mg 1 tablet(s) by mouth twice a day Disp 
#*42 Tablet Refills:*0 
2.  LamoTRIgine 25 mg PO DAILY 
RX *lamotrigine 25 mg 1 tablet(s) by mouth Daily Disp #*21 
Tablet Refills:*0 
3.  BuPROPion XL (Once Daily) 450 mg PO DAILY 
RX *bupropion HCl 450 mg 1 tablet(s) by mouth once a day Disp 
#*21 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder
Unspecified Anxiety Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___